US08044068B2
t-Butyl (3R,4R)-3-acetoxy-4-benzyloxycarbonylaminopyrrolidine-1-carboxylate (27 g) was dissolved in methanol (350 mL), followed by addition of potassium carbonate (16 g) with ice cooling, and the mixture was stirred overnight at room temperature. Water was added, and then the mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4:1-2:1) to obtain t-butyl (3R,4R)-3-benzyloxycarbonylamino-4-hydroxypyrrolidine-1-carboxylate (22 g).

reactant | t-Butyl (3R,4R)-3-acetoxy-4-benzyloxycarbonylaminopyrrolidine-1-carboxylate | 27 g | C(C)(=O)O[C@@H]1CN(C[C@H]1NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H26N2O6
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | methanol | 350 mL | CO | CH4O
product | t-butyl (3R,4R)-3-benzyloxycarbonylamino-4-hydroxypyrrolidine-1-carboxylate | 22 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C17H24N2O5
